*
.SUBCKT DDC114 E1 B1 C2 E2 B2 C1
*
RB1 B1 BASE1 10k
RE1 E1 BASE1 10k
Q1 C1 BASE1 E1 DI_DDC114EU
*
RB2 B2 BASE2 10k
RE2 E2 BASE2 10k
Q2 C2 BASE2 E2 DI_DDC114EU
*
*
.MODEL DI_DDC114EU  NPN (IS=16.8f NF=1.00 BF=766 VAF=127
+ IKF=91.1m ISE=3.59p NE=2.00 BR=4.00 NR=1.00
+ VAR=28.0 IKR=0.225 RE=0.665 RB=2.66 RC=0.266
+ XTB=1.5 CJE=11.3p VJE=1.10 MJE=0.500 CJC=4.50p VJC=0.300
+ MJC=0.300 TF=549p TR=119n EG=1.12 )
*
*
.ends