*
.SUBCKT PMEG4005CT 1 2 3
*
* The resistor R1 does not reflect
* a physical device. Instead it
* improves modeling in the reverse
* mode of operation.
*
R1 1 3 2.387E+6
D1 1 3 PMEG4005CT
*
R2 2 3 2.387E+6
D2 2 3 PMEG4005CT
*
.MODEL PMEG4005CT D
+ IS = 2.74E-6

+ N = 1.016

+ BV = 44
+ IBV = 0.001

+ RS = 0.1756

+ CJO = 8.338E-11
+ VJ = 0.2971
+ M = 0.4773
+ EG = 0.69

+ XTI = 2

.ENDS
*