*
.SUBCKT SDM10M45SD A1 K1 C2 A2 K2 C1
D1 A1 C1 DI
D2 C1 K1 DI
D3 A2 C2 DI
D4 C2 K2 DI
*
.MODEL DI D(IS=290n RS=0.420 BV=45.0 IBV=1.00u CJO=10.6p  M=0.333 N=1.28 TT=7.20n)
*
.ends