*model for MAX44284
*Version:01
*date: May/24th/2013
.SUBCKT MAX44284F RS+ RS- GND OUT SD VDD

R+ RS+ ib+ 1g
R- RS- ib- 1g
Vi+ ib+ GND 0
Vi- ib- GND 0
Fi+ RS+ GND VALUE={-I(Vi+)+0.1u}
Fi- RS- GND VALUE={-I(Vi-)+0.105u}
Rs+ RS+ rsp 100
Cs+ rsp RS- 533n
Esen1 sen1 0 VALUE={V(rsp)-V(RS-)}
Eo  OUT1 GND VALUE={(V(sen1)-9u+V(psr)+V(cmr))*50*V(sh)}
Ecmr cmr 0 VALUE={(V(RS+)+V(RS-))/2*0.3u+V(cmr1)}
Epsr psr 0 VALUE={V(VDD)*2u}
Elim lim lim1 VDD GND 1
Elim1 lim1 GND VALUE={-25m}
Elim2 lim2 GND VALUE={1m}
Dlim OUT lim DX1
Dlim2 lim2 OUT DX1
X_sh VDD 0 SD sh shutdown
Ecm cm 0 VALUE={(V(RS+)+V(RS-))/2}
Ecmr1 cmr1 0 table {V(cm)}= (-0.1,-150u) (0,0) (36,0)
.MODEL DX1  D(n=0.001)
GCC VDD GND VALUE={21u*V(sh)+0.1u}
.MODEL DY D(IS=100E-14 N=10M)
D401 OUT1 IO1 DY
D402 IO2 OUT1 DY
D403 OUT IO1 DY
D404 IO2 OUT DY
I400 IO1 IO2 40m
.ends
**************************************************************************************

.SUBCKT MAX44284E RS+ RS- GND OUT SD VDD

R+ RS+ ib+ 1g
R- RS- ib- 1g
Vi+ ib+ GND 0
Vi- ib- GND 0
Fi+ RS+ GND VALUE={-I(Vi+)+0.1u}
Fi- RS- GND VALUE={-I(Vi-)+0.105u}
Rs+ RS+ rsp 100
Cs+ rsp RS- 3.95u
Esen1 sen1 0 VALUE={V(rsp)-V(RS-)}
Eo  OUT1 GND VALUE={(V(sen1)-9u+V(psr)+V(cmr))*500*V(sh)}
Ecmr cmr 0 VALUE={(V(RS+)+V(RS-))/2*0.3u+V(cmr1)}
Epsr psr 0 VALUE={V(VDD)*2u}
Elim lim lim1 VDD GND 1
Elim1 lim1 GND VALUE={-25m}
Elim2 lim2 GND VALUE={1m}
Dlim OUT lim DX1
Dlim2 lim2 OUT DX1
X_sh VDD 0 SD sh shutdown
Ecm cm 0 VALUE={(V(RS+)+V(RS-))/2}
Ecmr1 cmr1 0 table {V(cm)}= (-0.1,-150u) (0,0) (36,0)
.MODEL DX1  D(n=0.001)
GCC VDD GND VALUE={21u*V(sh)+0.1u}
.MODEL DY D(IS=100E-14 N=10M)
D401 OUT1 IO1 DY
D402 IO2 OUT1 DY
D403 OUT IO1 DY
D404 IO2 OUT DY
I400 IO1 IO2 40m
.ends
**************************************************************************************

.SUBCKT MAX44284W RS+ RS- GND OUT SD VDD

R+ RS+ ib+ 1g
R- RS- ib- 1g
Vi+ ib+ GND 0
Vi- ib- GND 0
Fi+ RS+ GND VALUE={-I(Vi+)+0.1u}
Fi- RS- GND VALUE={-I(Vi-)+0.105u}
Rs+ RS+ rsp 100
Cs+ rsp RS- 1.6u
Esen1 sen1 0 VALUE={V(rsp)-V(RS-)}
Eo  OUT1 GND VALUE={(V(sen1)-9u+V(psr)+V(cmr))*200*V(sh)}
Ecmr cmr 0 VALUE={(V(RS+)+V(RS-))/2*0.3u+V(cmr1)}
Epsr psr 0 VALUE={V(VDD)*2u}
Elim lim lim1 VDD GND 1
Elim1 lim1 GND VALUE={-25m}
Elim2 lim2 GND VALUE={1m}
Dlim OUT lim DX1
Dlim2 lim2 OUT DX1
X_sh VDD 0 SD sh shutdown
Ecm cm 0 VALUE={(V(RS+)+V(RS-))/2}
Ecmr1 cmr1 0 table {V(cm)}= (-0.1,-150u) (0,0) (36,0)
.MODEL DX1  D(n=0.001)
GCC VDD GND VALUE={21u*V(sh)+0.1u}
.MODEL DY D(IS=100E-14 N=10M)
D401 OUT1 IO1 DY
D402 IO2 OUT1 DY
D403 OUT IO1 DY
D404 IO2 OUT DY
I400 IO1 IO2 40m
.ends
**************************************************************************************

.SUBCKT MAX44284H RS+ RS- GND OUT SD VDD

R+ RS+ ib+ 1g
R- RS- ib- 1g
Vi+ ib+ GND 0
Vi- ib- GND 0
GFi+ RS+ GND VALUE={-I(Vi+)+0.1u}
GFi- RS- GND VALUE={-I(Vi-)+0.105u}
Rs+ RS+ rsp 100
Cs+ rsp RS- 796n
Esen1 sen1 0 VALUE={V(rsp)-V(RS-)}
Eo  OUT1 GND VALUE={(V(sen1)-9u+V(psr)+V(cmr))*100*V(sh)}
Ecmr cmr 0 VALUE={(V(RS+)+V(RS-))/2*0.3u+V(cmr1)}
Epsr psr 0 VALUE={V(VDD)*2u}
Elim lim lim1 VDD GND 1
Elim1 lim1 GND VALUE={-25m}
Elim2 lim2 GND VALUE={1m}
Dlim OUT lim DX1
Dlim2 lim2 OUT DX1
X_sh VDD 0 SD sh shutdown
Ecm cm 0 VALUE={(V(RS+)+V(RS-))/2}
Ecmr1 cmr1 0 table {V(cm)}= (-0.1,-150u) (0,0) (36,0)
.MODEL DX1  D(n=0.001)
GCC VDD GND VALUE={21u*V(sh)+0.1u}
.MODEL DY D(IS=100E-14 N=10M)
D401 OUT1 IO1 DY
D402 IO2 OUT1 DY
D403 OUT IO1 DY
D404 IO2 OUT DY
I400 IO1 IO2 40m
.ends
**************************************************************************************
.SUBCKT shutdown 10 18 91 cs
E20 20 18 10 18 0.5
Ecs cs 18 VALUE={V(96)-V(20)}
*SHUTDOWN
RSHIN 91 20 500K
ESH3 220 20 91 18 1
RSHA 220 221 1K
CSHA 221 20 32P
ESH2 92 20 221 20 1
RSH1 92 93 100
VSH1 93 94 0V
EHYS 95 94 POLY(2) 10 18 96 20 0 0 0 0 0.3
RBL 94 20 10K
ESH1 95 20 10 18 0.45
****
FSH1 20 96 Vsh1 1
CSH1 96 20 10P
DSH2 20 96 DA
DSH1 96 97 DA
VSH2 97 20 1V
RSH2 96 20 100K
.MODEL DA D(N=0.1M)
.ends


* Copyright (c) 2003-2015 Maxim Integrated Products.  All Rights Reserved.