*
.SUBCKT beh_vload in ctl
Rseries load in {trace}
Rload load 0 {rpar}
Cload load 0 {cpar}
Rctl ctl 0 1
Bload load 0 V=if(v(in)>v(ctl),v(ctl),v(in))
*
.params rpar=100k cpar=1n trace=0.01
*
.ends
